US08222286B2
To a solution of (S)-2-[(S)-2-(2′,5′-dichloro-biphenyl-4-yl)-1-(1H-tetrazol-5-ylcarbamoyl)-ethylamino]-propionicacid tert-butyl ester (103 mg, 0.204 mmol) in DCM (2 mL) were added TFA (1 mL) and triethylsilane (0.098 mL, 0.611 mmol). After stirred for 8 hours, the reaction mixture was concentrated under reduced pressure. The residue was purified by reverse phase HPLC (Sunfire C-18 column, eluent: 0.1% TFA in H2O/CH3CN) to give (S)-2-[(S)-2-(2′,5′-dichloro-biphenyl-4-yl)-1-(1H-tetrazol-5-ylcarbamoyl)-ethylamino]-propionic acid. 1H NMR (400 MHz, DMSO-d6+TFA-d) δ 1.49 (d, 3H, J=7.1 Hz), 3.29 (dd, 1H, J=7.6, 13.9 Hz), 3.42 (dd, 1H, J=7.1, 14.2 Hz), 4.13 (dd, 1H, J=7.1, 14.0 Hz), 4.62 (dd, 1H, J=7.3, 7.3 Hz), 7.37 (d, 1H, J=2.5 Hz), 7.37-7.43 (m, 2H), 7.40 (d, 2H, J=4.3 Hz), 7.48 (dd, 1H, J=2.5, 8.6 Hz), 7.59 (d, 1H, J=8.6 Hz), 14.89 (bs, 1H); HPLC Retention time 1.25 minutes (condition A); MS: m/z (MH+) 449.

reactant | (S)-2-[(S)-2-(2′,5′-dichloro-biphenyl-4-yl)-1-(1H-tetrazol-5-ylcarbamoyl)-ethylamino]-propionicacid tert-butyl ester | 0.204 mmol, 103 mg | C(C)(C)(C)OC([C@H](C)N[C@@H](CC1=CC=C(C=C1)C1=C(C=CC(=C1)Cl)Cl)C(NC1=NN=NN1)=O)=O | C23H26Cl2N6O3
reactant | TFA | 1 mL | C(=O)(C(F)(F)F)O | C2HF3O2
reactant | triethylsilane | 0.611 mmol, 0.098 mL | C(C)[SiH](CC)CC | C6H16Si
solvent | DCM | 2 mL | C(Cl)Cl | CH2Cl2
product | (S)-2-[(S)-2-(2′,5′-dichloro-biphenyl-4-yl)-1-(1H-tetrazol-5-ylcarbamoyl)-ethylamino]-propionic acid | ClC1=C(C=C(C=C1)Cl)C1=CC=C(C=C1)C[C@@H](C(NC1=NN=NN1)=O)N[C@H](C(=O)O)C | C19H18Cl2N6O3
